Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Gastric Adenocarinoma (T3N2)
 
Major Surgical or Invasive Procedure:
Robotic-assisted laparoscopic total gastrectomy 

 
History of Present Illness:
Mr. ___ is a ___ gentleman with T3N2 gastric 
cancer who has received 3 cycles of neoadjuvant chemotherapy 
with Dr. ___ at ___. Treatment was discontinued due 
to an unfavorable side effect profile. Lymph node regression of 
disease was noted on follow-up scans. He was evaluated for 
surgical management of gastric cancer on ___, and was 
scheduled for robotic-assisted laparoscopic total gastrectomy 
for ___. 

 
Past Medical History:
Past medical history
H Pylori gastritis
GERD
Iron deficiency anemia
Hemorroids
Deep venous thrombosis and pulmonary embolism after shoulder 
surgery and treated with six months of Coumadin

Past Surgical History
Two shoulder arthroscopies

No known drug allergies
 
Social History:
___
Family History:
No family history of colon, gastric, esophageal cancer, or IBD
 
Physical Exam:
 Discharge Physical Exam:  
 VS: T 97.9 HR 79 BP 111/71 RR 18 O2 96% RA
 GEN: AA&O x 3, NAD, calm, cooperative.  
 HEENT: (-)LAD, mucous membranes moist, trachea midline, EOMI  
 CHEST: Clear to auscultation bilaterally, (-) cyanosis.  
 ABDOMEN: soft, diffuse tenderness, incision sites are c/d/i 
covered with steri-strips  
 EXTREMITIES: Warm, well perfused, no edema 
 
Pertinent Results:
UGI SGL CONTRAST W/ KUB (___)
IMPRESSION:  No evidence of leak or obstruction. 

ABDOMEN (SUPINE & ERECT) Xray (___)
IMPRESSION:   
1. In the left upper quadrant there is the suggestion of mildly 
dilated small 
bowel, however this may also represent superimposed sigmoid 
colon. The 
appearance of mildly dilated small bowel in this location likely 
represents 
localized ileus the continued close follow-up is recommended.   
2.  Unable to evaluate for intra-abdominal fluid collections on 
the current 
modality. A CT of the abdomen and pelvis could evaluate for 
intra-abdominal 
fluid collections as clinically indicated. 

 
Brief Hospital Course:
The patient presented to pre-op on ___ for a scheduled 
robotic-assisted laparoscopic gastrectomy following 3 cycles of 
neoadjuvant chemotherapy for T3N2 gastric cancer. Pt was 
evaluated by anesthesia. There were no adverse events in the 
operating room; please see the operative note for details.  Pt 
was extubated, taken to the PACU until stable, then transferred 
to the ward for observation. 

Neuro: The patient was alert and oriented throughout 
hospitalization; pain was initially managed with a Dilaudid PCA 
and IV acetaminophen and then transitioned to oral oxycodone and 
acetaminophen as well as IV hydromorphone as needed for pain. 
CV: The patient remained stable from a cardiovascular 
standpoint; vital signs were routinely monitored.
Pulmonary: The patient remained stable from a pulmonary 
standpoint; vital signs were routinely monitored. Good pulmonary 
toilet, early ambulation and incentive spirometry were 
encouraged throughout hospitalization. 
GI/GU/FEN: The patient was initially kept NPO with a 
___ tube in place for decompression.  On ___, 
the NGT was removed. Subsequently, the diet was advanced 
sequentially to a regular diet, which was well tolerated. A 
swallow study done on ___ showed no evidence of leak or 
obstruction from the esophagus to proximal small bowel. 
Patient's intake and output were closely monitored. Indwelling 
catheter was removed on POD2 (___). A JP drain was placed 
intra-operatively. Outputs were serosanguinous throughout the 
hospitalization course, with no evidence of amylase leak. The JP 
drain was removed on *****. 
ID: The patient's fever curves were closely watched for signs of 
infection, of which there were none.
HEME: Perioperatively, the patient's platelets trended downward 
with a nadir of 77 on ___. SC heparin and IV famotidine 
were discontinued. Heparin dependent antibodies were found to be 
negative, and SC heparin was re-started. 
Prophylaxis: The patient received subcutaneous heparin and ___ 
dyne boots were used during this stay and was encouraged to get 
up and ambulate as early as possible.
Pathology: The pathology report from the total gastrectomy 
showed pT4aN3a (tumor invading serosa and affecting ___ 
perigastric nodes) gastric adenocarcinoma, with negative 
proximal and distal margins and extensive lymphatic invasion. 

At the time of discharge, the patient was doing well, afebrile 
and hemodynamically stable.  The patient was tolerating a diet,  
ambulating, voiding without assistance, and pain was well 
controlled.  The patient received discharge teaching and 
follow-up instructions with understanding verbalized and 
agreement with the discharge plan.

 
Medications on Admission:
OMEPRAZOLE - omeprazole 20 mg capsule,delayed release. 1 
capsule) by mouth once a day)
Sucralfate 1 gm QID
 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Gastric cancer
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure taking care of you here at ___ 
___. You were admitted to our hospital for 
a robotic-assisted laparoscopic total gastrectomy for gastric 
cancer following neoadjuvant chemotherapy. You have recovered 
and are now ready to be discharged to home. Please follow the 
recommendations below to ensure a speedy and uneventful 
recovery. 

HOW YOU MAY FEEL: 
- You may feel weak or "washed out" for 6 weeks. You might want 
to nap often. Simple tasks may exhaust you.
- You may have a sore throat because of a tube that was in your 
throat during the surgery. 
 
ACTIVITY:
- Do not drive until you have stopped taking pain medicine and 
feel you could respond in an emergency.
- You may climb stairs. 
- You may go outside, but avoid traveling long distances until 
you see your surgeon at your next visit.
- You may start some light exercise when you feel comfortable.
- Heavy exercise may be started after 6 weeks, but use common 
sense and go slowly at first.
- You may resume sexual activity unless your doctor has told you 
otherwise.
 

PAIN MANAGEMENT:
- Your pain should get better day by day. If you find the pain 
is getting worse instead of better, please contact your surgeon.

If you experience any of the following, please contact your 
surgeon:
- sharp pain or any severe pain that lasts several hours
- pain that is getting worse over time
- pain accompanied by fever of more than 101
- a drastic change in nature or quality of your pain
 
MEDICATIONS:
- Pain medications: ___ will receive a prescription for liquid 
oxycodone, an opioid pain medication. This medication will make 
you drowsy and impair your ability to drive a motor vehicle or 
operate machinery safely. You MUST refrain from such activities 
while taking these medications. You may also take acetaminophen 
(Tylenol) for pain management; do not exceed 4000 mg per 24 hour 
period.
- Constipation: This is a common side effect of opioid pain 
medication. If you experience constipation, please reduce or 
eliminate opioid pain medication. You may trial 2 ounces of 
light prune juice and/or a stool softener (i.e. crushed docusate 
sodium tablets), twice ___ until you resume a normal bowel 
pattern. Please stop taking this medication if you develop loose 
stools. Please do not begin taking laxatives including until you 
have discussed it with your nurse or surgeon.
- Antacids: Please discontinue your omeprazole pills. You will 
no longer require these due to the surgery. 
- You must not use NSAIDS (non-steroidal anti-inflammatory 
drugs). Examples include, but are not limited to Aleve, 
Arthrotec, aspirin, Bufferin, diclofenac, Ecotrin, etodolac, 
ibuprofen, Indocin, indomethacin, Feldene, ketorolac, 
meclofenamate, meloxicam, Midol, Motrin, nambumetone, Naprosyn, 
Naproxen, Nuprin, oxaprozin, Piroxicam, Relafen, Toradol and 
Voltaren. These agents may cause bleeding and ulcers in your 
digestive system. If you are unclear whether a medication is 
considered an NSAID, please ask call your nurse or ask your 
pharmacist.
- If you have any questions about what medicine to take or not 
to take, please call your surgeon. 

WOUND CARE: 
-You may shower with any bandage strips that may be covering 
your wound. Do not scrub and do not soak or swim, and pat the 
incision dry. If you have steri strips, they will fall off by 
themselves in ___ weeks. If any are still on in two weeks and 
the edges are curling up, you may carefully peel them off.  *** 
Your staples will be removed by your surgeon at your follow up 
appointment. 
 Do not take baths, soak, or swim for 6 weeks after surgery 
unless told otherwise by your surgical team. 
-Notify your surgeon is you notice abnormal (foul smelling, 
bloody, pus, etc) or increased drainage from your incision site, 
opening of your incision, or increased pain or bruising. Watch 
for signs of infection such as redness, streaking of your skin, 
swelling, increased pain, or increased drainage. 

Please call with any questions or concerns. Thank you for 
allowing us to participate in your care. We hope you have a 
quick return to your usual life and activities. 

-- Your ___ Care Team
 
Followup Instructions:
___